US03960967
To a solution of 1.28 g. of 1-(p-methoxyphenylsulfonyl)-2-methyl-4-hydroxy-but-2-ene in 15 ml. of tetrahydrofuran (THF) was added at -70°C. 4.25 ml. of 2.37 M solution of n-butyllithium in hexane. The mixture was stirred at -70°C. for 30 minutes and a solution of 1.78 g. of 1-chloro-3-methyl-5-(2,6,6-trimethylcyclohexen-1-yl)-penta-2,4-diene in 5 ml. of THF was added at -70°C. The solution was stirred at -70°C. for 50 minutes and allowed to warm to 70°C. The mixture was poured into water and extracted with diethyl ether. The extracts were washed with water, dried and concentrated to give 2.6 g. of 1-hydroxy-3,7-dimethyl-4-(p-methoxyphenyl-sulfonyl)-9-(2,6,6-trimethylcyclohexen-1-yl)-nona-2,6,8-triene which was chromatographed on silica get to give 0.48 g. of 1-hydroxy-3,7-dimethyl-4-p-methoxyphenylsulfonyl)-9-(2,6,6-trimethylcyclohexen-1-yl)-nona-2,6,8-triene (20% yield) having a UV in isopropanol at λmax = 241-2 mμ (ε24,625).

reactant | 1-(p-methoxyphenylsulfonyl)-2-methyl-4-hydroxy-but-2-ene | COC1=CC=C(C=C1)S(=O)(=O)CC(=CCO)C | C12H16O4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1-chloro-3-methyl-5-(2,6,6-trimethylcyclohexen-1-yl)-penta-2,4-diene | ClCC=C(C=CC1=C(CCCC1(C)C)C)C | C15H23Cl
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 9-(2,6,6-trimethylcyclohexen-1-yl)-nona-2,6,8-triene | 20% yield | CC1=C(C(CCC1)(C)C)C=CC=CCCC=CC | C18H28
